US05066680
A solution of 4-acetylaminomethylpyridine (22.40 g) and ethyl iodide (17.9 ml) in acetone (300 ml) was heated under reflux for 24 hours and then the solvent was evaporated in vacuo. The residue was washed with a mixture of n-hexane, ethyl acetate and ethanol to give very hygroscopic 4-acetylaminomethyl-1-ethylpyridinium iodide (42.18 g), which was used without further purification.

reactant | 4-acetylaminomethylpyridine | 22.40 g | C(C)(=O)NCC1=CC=NC=C1 | C8H10N2O
reactant | ethyl iodide | 17.9 ml | C(C)I | C2H5I
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4-acetylaminomethyl-1-ethylpyridinium iodide | 42.18 g | [I-].C(C)(=O)NCC1=CC=[N+](C=C1)CC | InChI=1S/C10H14N2O.HI/c1-3-12-6-4-10(5-7-12)8-11-9(2)13;/h4-7H,3,8H2,1-2H3;1H
